### PR TITLE
Refactor files about identity types and homotopies

### PR DESCRIPTION
**Pull request by EgbertRijke**
The following files were significantly cleaned up:
- `foundation.path-algebra`

The following files were created:
- `foundation.action-on-higher-identifications-functions`
- `foundation.whiskering-higher-homotopies`
- `foundation.whiskering-identifications`

The following other actions were performed:
- Adding detailed informal explanations to many entries affected by this pull request.
- Replace `whisk` with `whisker` throughout the library.
- Making the order of arguments uniform for various operations on commuting squares and triangles of identifications.
- Fixing names so that operator names go before the entity that they act on:
  * `htpy-left-whisker` to `htpy-left-whisker`
  * `coherence-square-identifications-horizontal-inv` to `horizontal-inv-coherence-square-identifications`
  * `coherence-square-identifications-left-paste` to `left-concat-identification-coherence-square-identification`, and variants
- Replace `ap (ap f)` with `ap² f` throughout the library. I also renamed the various `nat-sq`-entries about `ap²`.
- Moving the entries about squares of identifications from `path-algebra` to `commuting-squares-of-identifications`.
- There were duplicate entries that did the same pasting lemmas of commuting squares of identifications, spread out over several files including `commuting-squares-of-identifications` and `path-algebra`. These separate formalization attempts have been unified.
- Removing "iterated inverse laws" from `path-algebra` since they were duplicate entries and they were not actually iterated.
- Rename `ap-concat-eq` to `map-coherence-triangle-identifications`, change the order of its arguments to match with `coherence-triangle-identifications`, and move it to `commuting-triangles-of-identifications`.
- Rename `coherence-square-identifications-ap` to `map-coherence-square-identifications`.
- Remove entries `inv-htpy-left-whisk-inv-htpy` and `inv-htpy-right-whisk-inv-htpy`.
- Rename `ap-left-whisk-htpy` to `left-whisker-htpy²`, and `ap-right-whisk-htpy` to `right-whisker-htpy²` and move them to `whiskering-higher-homotopies`.
- Correcting a statement that `refl-htpy` is a unit element on the homotopy side for whiskering. Instead, it is an absorbing element.

### CODE REVIEW

**Comment by EgbertRijke** [comment]
I thought this would be a quicky but I'm encountering a lot of substandard programming while editing the entries about whiskering, so I better put my shoulders under this and do the refactoring well. I'll mark this PR as a draft for now.

**Comment by EgbertRijke** [comment]
I have explained some of the work that I've been doing in this pull request in the PR description. Hopefully that clears some of the confusion. Apologies that I didn't do this earlier.

**Comment by fredrik-bakke** [comment]
Thanks for doing this! I've been contemplating doing something similar recently, but I'm glad someone else did it. Would you mind also renaming `htpy-precomp` to `precomp-htpy` and `htpy-postcomp` to `postcomp-htpy`?

**Comment by fredrik-bakke** [comment]
> - Replace `ap (ap f)` with `ap²` f throughout the library. I also renamed the various `nat-sq`-entries about `ap²`.

Keep in mind that, at times, `ap (ap f)` may be more naturally understood as a law about left whiskering of homotopies, so there may be a naming conflicts arising.

**Comment by EgbertRijke** [comment]
I am opening up this pull request for review. There are likely a few more small things that I will come across before a review will come in, but I don't expect any more big changes.

**Comment by EgbertRijke** [comment]
I added the documentation tag to this PR because I have written a lot of informal explanations for all the entries that I edited.

**Comment by fredrik-bakke** [comment]
I'll review it a little later today 😊

**Comment by EgbertRijke** [comment]
Note that I keep catching things to improve during self-review, but I will stop looking for improvements once the an actual review is in. Otherwise this can go on forever with this PR.

**Comment by EgbertRijke** [comment]
So a thing got broken, because there was a problem:

The same naming scheme was used for whiskering homotopies with fucntions, and whiskering 2-homotopies with homotopies. Furthermore, there was not a single comment on the fact that there were two different concepts at play. So I needed to figure out how to establish a good naming scheme that will meaningfully distinguish between all the variations of whiskering that exist, including whiskering higher identifications and homotopies. Clearly, this was a nontrivial problem, so I can't blame anyone that this wasn't done before.

The thing I came up with is a general notion of whiskering: Here I defined whiskering _with respect to a binary operation_, and this establishes a useful naming scheme:
- `left-whisker-concat` and `right-whisker-concat` for whiskering with respect to `concat` (i.e. on identifications).
- `left-whisker-concat-htpy` and `right-whisker-concat-htpy` for wihiskering with respect to `concat-htpy`
- `left-whisker-comp` and `right-whisker-comp` for whiskering with respect to composition (i.e. on functions)
- `left-whisker-comp²` and `right-whisker-comp²` for whiskering 2-homotopies with respect to composition.

Clearly, our contributors including me have had difficulty in the past with coming up with names for many operations involved in whiskering and higher path algebra. Hopefully this will alleviate some of the difficulty.

Also, I had to deal with this for #885 because I was running into those things.

File: src/finite-group-theory/delooping-sign-homomorphism.lagda.md [hunk 1]
```diff
@@ -1146,34 +1145,35 @@ module _
...
                           ( eq-pair-Σ p
-                            ( eq-is-prop is-prop-type-trunc-Prop)))) ∙
-                      ( ap
+                            ( eq-is-prop is-prop-type-trunc-Prop))))
+                      ( inv (inv (eq-counting-equivalence-class-R n))) ∙
+                      ( left-whisker-concat
                         ( ap
                           ( equivalence-class ∘ R (n +ℕ 2))
                           ( eq-pair-Σ p
-                            ( eq-is-prop is-prop-type-trunc-Prop)) ∙_)
```
Comment (EgbertRijke) [inline src/finite-group-theory/delooping-sign-homomorphism.lagda.md:1176]: This notation should not have happened by the way. When you read the construction as a tree, there is no hint that the identification constructed with `ap` is going to be be an argument to a partially applied concatenation operation. I don't consider this notation kind to the reader.

**Comment by fredrik-bakke** [comment]
Should I wait with reviewing this PR?

**Comment by EgbertRijke** [comment]
I'm happy to have your feedback on this PR so far, but the problem is that it breaks something in `lifting-squares` that is not easy to fix because that reflexivity homotopy is so hard-coded. Given that it breaks things in the library I would also totally understand if you want to wait with looking at this PR. I'm working hard to fix it.

File: src/foundation-core/identity-types.lagda.md [hunk 2]
```diff
@@ -14,11 +14,27 @@ open import foundation.universe-levels
...
-theory, we introduce the identity type as an inductive family of types, where
-the induction principle can be understood as expressing that the identity type
-is the least reflexive relation.
+The equality relation on a type is introduced as binary family of types
+
+```text
+  Id : A → A → 𝒰
+```
+
+equipped with a proof of reflexivity
```
Comment (fredrik-bakke) [inline src/foundation-core/identity-types.lagda.md:23]:
```suggestion
equipped with a _proof of reflexivity_
```

Comment (fredrik-bakke) [reply src/foundation-core/identity-types.lagda.md:23]: or concept?

File: src/foundation-core/identity-types.lagda.md [hunk 3]
```diff
@@ -87,9 +121,17 @@ ind-Id :
 ind-Id x B b y refl = b
 ```
 
-## Structure
+## Operations on the identity type
+
+The identity types form a weak groupoidal structure on types. Thus they come
+equipped with **concatenation** `(x ＝ y) → (y ＝ z) → (x ＝ z)` and an
+**inverse operation** `(x ＝ y) → (y ＝ x)`.
```
Comment (fredrik-bakke) [inline src/foundation-core/identity-types.lagda.md:128]: `#concept` ?

File: src/foundation-core/identity-types.lagda.md [hunk 4]
```diff
@@ -234,6 +418,22 @@ step-equational-reasoning p z q = p ∙ q
 syntax step-equational-reasoning p z q = p ＝ z by q
 ```
 
+**Note.** Equational reasoning is a convenient way to construct identifications.
+However, in some situations it may not be the fastest or cleanest mechanism to
+construct an identification. Some constructions of identifications naturally
+involve computations that are more deeply nested in the terms. Furthermore,
+proofs by equational reasoning tend to require a lot of reassociation.
+
+Some tools that allow us to perform faster comutations are the transpositions
```
Comment (fredrik-bakke) [inline src/foundation-core/identity-types.lagda.md:427]:
```suggestion
Some tools that allow us to perform faster computations are the transpositions
```

File: src/foundation-core/identity-types.lagda.md [hunk 5]
```diff
@@ -234,6 +418,22 @@ step-equational-reasoning p z q = p ∙ q
...
+defined above, the transpositions and splicing operations defined in
+[commuting squares of identifications](foundation.commuting-squares-of-identifications.md)
+and
+[commuting triangles of identifications](foundation.commuting-triangles-of-identifications.md),
+and the higher concatenation operations defined in
+[path algebra](foundation.path-algebra.md). Each of these operations has good
+computational behavior, so there is infrastructure for reasoning about
+identifications that are constructed using them.
```
Comment (fredrik-bakke) [inline src/foundation-core/identity-types.lagda.md:435]: Maybe it is appropriate to also mention that there is additional infrastructure for reasoning with homotopies that should be preferred when working with them? Generally, I tend to find that proofs about homotopies that reduce to equational reasoning are less conceptual and longer than the alternative.

File: src/foundation-core/whiskering-homotopies-composition.lagda.md [hunk 6]
```diff
@@ -30,8 +30,8 @@ assumes a diagram of the form
       g
 ```
 
-and is defined to be a function `h ·l_ : (f ~ g) → (h ∘ f ~ h ∘ g)`. The **right
-whiskering** operation assumes a diagram of the form
+and is defined to be a function `H ↦ h ·l H : (f ~ g) → (h ∘ f ~ h ∘ g)`. The
+**right whiskering** operation assumes a diagram of the form
```
Comment (fredrik-bakke) [inline src/foundation-core/whiskering-homotopies-composition.lagda.md:34]:
```suggestion
{{#concept "right whiskering" Disambiguation="homotopies with respect to composition" Agda=_·r_}} operation assumes a diagram of the form
```

File: src/foundation-core/identity-types.lagda.md [hunk 7]
```diff
@@ -131,30 +205,144 @@ module _
...
+  is-retraction-inv-concat' refl refl = refl
+
+  is-section-inv-concat' :
+    {x y z : A} (q : y ＝ z) (r : x ＝ z) → (r ∙ inv q) ∙ q ＝ r
+  is-section-inv-concat' refl refl = refl
+```
+
 ### Transposing inverses
 
+Consider a triangle of identifications
```
Comment (fredrik-bakke) [inline src/foundation-core/identity-types.lagda.md:325]:
```suggestion
Consider a [triangle of identifications](foundation-core.commuting-triangles-of-identifications.md)
```

File: src/foundation/action-on-higher-identifications-functions.lagda.md [hunk 8]
```diff
@@ -0,0 +1,187 @@
...
+
+Any map `f : A → B` has an
+{{#concept "action on higher identifications" Disambiguation="functions" Agda=ap²}},
+which is a map
+
+```text
+  ap² f : (p ＝ q) → (ap f p ＝ ap f q)
+```
+
+Here `p q : x ＝ y` are identifications in the type `A`. The action of `f` on
```
Comment (fredrik-bakke) [inline src/foundation/action-on-higher-identifications-functions.lagda.md:33]:
```suggestion
Here `p q : x ＝ y` are [identifications](foundation-core.identity-types.md) in the type `A`. The action of `f` on
```

File: src/foundation/action-on-higher-identifications-functions.lagda.md [hunk 9]
```diff
@@ -0,0 +1,187 @@
...
+                      ap² f (horizontal-inv-Id² α)
+        ap f (inv p) ------------------------------> ap f (inv q)
+             |                                            |
+  ap-inv f p |                                            | ap-inv f q
+             ∨                                            ∨
+        inv (ap f p) ------------------------------> inv (ap f q)
+                      horizontal-inv-Id² (ap² f α)
+```
+
+commutes.
```
Comment (fredrik-bakke) [inline src/foundation/action-on-higher-identifications-functions.lagda.md:72]:
```suggestion
[commutes](foundation-core.commuting-squares-of-identifications.md).
```

File: src/foundation/action-on-higher-identifications-functions.lagda.md [hunk 10]
```diff
@@ -0,0 +1,187 @@
...
+
+```text
+                 ap² (const b) α
+  ap (const b) p ---------------> ap (const b) q
+                 \              /
+      ap-const b p \          / ap-const b q
+                     ∨      ∨
+                       refl
+```
+
```
Comment (fredrik-bakke) [inline src/foundation/action-on-higher-identifications-functions.lagda.md:170]:
```suggestion

[commutes](foundation-core.commuting-triangles-of-identifications.md).

```

File: src/foundation-core/whiskering-homotopies-composition.lagda.md [hunk 11]
```diff
@@ -270,18 +257,17 @@ definitionally.
...
 module _
-  {l1 l2 l3 l4 : Level}
-  {A : UU l1} {B : A → UU l2}
+  {l1 l2 l3 l4 : Level} {A : UU l1} {B : A → UU l2}
   {C : {x : A} → B x → UU l3} {D : {x : A} → B x → UU l4}
   {f g : {x : A} (y : B x) → C y}
   where
 
-  coherence-left-right-whisk-htpy :
+  coherence-double-whisker-comp :
```
Comment (fredrik-bakke) [inline src/foundation-core/whiskering-homotopies-composition.lagda.md:265]: I think this name should contain both `left` and `right` somehow, to make it clear the coherence is not about a double one-sided whiskering.

File: src/foundation/commuting-triangles-of-homotopies.lagda.md [hunk 12]
```diff
@@ -8,32 +8,36 @@ module foundation.commuting-triangles-of-homotopies where
...
+    f ----> g
+     \     /
+ left \   / right
+       ∨ ∨
+        h
 ```
 
-is said to commute if there is a homotopy between the homotopy on the left
-`f ~ h` and the composite homotopy `f ~ g ~ h`.
+is said to commute if there is a homotopy `left ~ top ∙h right`.
```
Comment (fredrik-bakke) [inline src/foundation/commuting-triangles-of-homotopies.lagda.md:36]:
```suggestion
is said to {{#concept "commute" Disambiguation="triangle of homotopies" Agda=coherence-triangle-homotopies}} if there is a homotopy `left ~ top ∙h right`.
```

File: src/foundation/function-extensionality.lagda.md [hunk 13]
```diff
@@ -69,7 +69,7 @@ coherence-square-eq-htpy-ap-precomp-Π f {C = C} g h =
     ( equiv-funext)
     ( equiv-funext)
     ( precomp-Π f (eq-value g h))
-    ( coherence-square-htpy-eq-ap-precomp-Π f g h)
+    ( coherence-square-homotopies-eq-ap-precomp-Π f g h)
```
Comment (fredrik-bakke) [inline src/foundation/function-extensionality.lagda.md:72]: I think this thing should be called `coherence-square-homotopies-htpy-eq-ap-precomp-Π` as the `htpy`-part served two purposes. Sorry for the bad naming!

File: src/foundation/morphisms-arrows.lagda.md [hunk 14]
```diff
@@ -361,10 +361,14 @@ module _
...
+    ( horizontal-pasting-coherence-square-identifications
+      ( htpy-codomain-htpy-hom-arrow f g α β H (f a))
+      ( htpy-codomain-htpy-hom-arrow f g β γ K (f a))
       ( coh-hom-arrow f g α a)
       ( coh-hom-arrow f g β a)
       ( coh-hom-arrow f g γ a)
+      ( (g ·l htpy-domain-htpy-hom-arrow f g α β H) a)
+      ( (g ·l htpy-domain-htpy-hom-arrow f g β γ K) a)
       ( coh-htpy-hom-arrow f g α β H a)
       ( coh-htpy-hom-arrow f g β γ K a))
```
Comment (fredrik-bakke) [inline src/foundation/morphisms-arrows.lagda.md:373]: Couldn't you keep the arguments implicit?

File: src/foundation/morphisms-arrows.lagda.md [hunk 15]
```diff
@@ -454,36 +461,40 @@ module _
...
+    ( right-whisker-coherence-square-identifications
       ( ap
         ( map-codomain-hom-arrow g h γ)
         ( htpy-codomain-htpy-hom-arrow f g α β H (f a)))
       ( ap (map-codomain-hom-arrow g h γ) (coh-hom-arrow f g α a))
+      ( ap (map-codomain-hom-arrow g h γ) (coh-hom-arrow f g β a))
+      ( ap
+        ( map-codomain-hom-arrow g h γ ∘ g)
+        ( htpy-domain-htpy-hom-arrow f g α β H a))
       ( coh-hom-arrow g h γ (map-domain-hom-arrow f g β a))
```
Comment (fredrik-bakke) [inline src/foundation/morphisms-arrows.lagda.md:473]: Couldn't you keep the arguments implicit?

File: src/foundation/whiskering-higher-homotopies-composition.lagda.md [hunk 16]
```diff
@@ -0,0 +1,65 @@
...
+
+Consider two dependent functions `f g : (x : A) → B x` equipped with two
+homotopies `H H' : f ~ g`, and consider a family of maps
+`h : (x : A) → B x → C x`. Then we obtain a map
+
+```text
+  α ↦ ap h ·l α : H ~ H' → h ·l H ~ h ·l H'
+```
+
+This operation is called the {{#concept "left whiskering of 2-homotopies"}}.
```
Comment (fredrik-bakke) [inline src/foundation/whiskering-higher-homotopies-composition.lagda.md:29]:
```suggestion
This operation is called the {{#concept "left whiskering of 2-homotopies" Agda=left-whisker-comp²}}.
```

File: src/foundation/whiskering-higher-homotopies-composition.lagda.md [hunk 17]
```diff
@@ -0,0 +1,65 @@
...
+Alternatively the left whiskering operation of 2-homotopies can be defined using
+the
+[action on higher identifications of functions](foundation.action-on-higher-identifications-functions.md)
+by
+
+```text
+  α x ↦ ap² h (α x).
+```
+
+## Definitions
```
Comment (fredrik-bakke) [inline src/foundation/whiskering-higher-homotopies-composition.lagda.md:39]: Maybe also briefly mention right whiskering?

**Review by fredrik-bakke — COMMENTED** [review]
I got through about half the files, and the changes look amazing so far! Can't wait to start using it. I'll review the rest later.

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 18]
```diff
@@ -139,24 +138,19 @@ module _
...
+              ( right-whisker-htpy (is-retraction-is-invertible H) f)
+              ( is-section-is-invertible H x)) ∙
+            ( ap
+              ( concat' _ (is-retraction-is-invertible H (f x)))
+              ( ( ap-comp f
+                  ( map-inv-is-invertible H ∘ f)
+                  ( is-section-is-invertible H x)) ∙
+                ( inv
+                  ( ap
+                    ( ap f)
```
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/foundation-core/coherently-invertible-maps.lagda.md:151]: I didn't do that here because it will induce cyclic module dependencies.

File: src/foundation-core/identity-types.lagda.md (hunk 2 above)
Comment (EgbertRijke) [reply src/foundation-core/identity-types.lagda.md:23]: Yes, and I could say "reflexivity element" ^^

File: src/foundation-core/whiskering-homotopies-composition.lagda.md (hunk 11 above)
Comment (EgbertRijke) [reply src/foundation-core/whiskering-homotopies-composition.lagda.md:265]: It will be easy to disambiguate with double whiskering and _iterated_ whiskering. I'll make a general naming scheme by adding it to the general whiskering operations.

File: src/foundation/function-extensionality.lagda.md (hunk 13 above)
Comment (EgbertRijke) [reply src/foundation/function-extensionality.lagda.md:72]: Thank you for that clarification!

File: src/foundation-core/coherently-invertible-maps.lagda.md (hunk 18 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation-core/coherently-invertible-maps.lagda.md:151]: ah, okay 👍

File: src/foundation/morphisms-arrows.lagda.md (hunk 14 above)
Comment (EgbertRijke) [reply src/foundation/morphisms-arrows.lagda.md:373]: It was annoying that it was so situational which arguments were implicit. I couldn't remember which arguments were expected, and find it easier if its just uniform: stuff about pasting always has the same arguments ordered `top-left`, `top-right`, `left`, `middle`, `right`, `bottom-left`, `bottom-right`.

Filling in a few extra arguments isn't really something that slows someone down in the formalization, but having to functions that all do something similar but have their arguments handled differently is a pain to the maintainer.

**Comment by fredrik-bakke** [comment]
🥲

**Comment by EgbertRijke** [comment]
We're compiling again! So I declare this PR done.

Our spaghetti code is now served with sauce.

**Comment by fredrik-bakke** [comment]
Very nice! I'll see if I can review it during my layover in Belgrade tomorrow 😄🍴

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 19]
```diff
@@ -139,24 +138,19 @@ module _
...
+                    ( coh-is-coherently-invertible-id
+                      ( is-section-is-invertible H) x)))))))
```
Comment (fredrik-bakke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:153]: Since this entire proof is wrapped in an `inv`, I think it is pertinent to record `inv-coherence-map-inv-is-invertible` first. This way, if the inverse is needed, we can avoid `inv-inv`, and the bulk of the proof will be less indented.

File: src/foundation-core/commuting-squares-of-homotopies.lagda.md [hunk 20]
```diff
@@ -0,0 +1,46 @@
...
+          top
+      f ------> g
+      |         |
+ left |         | right
+      v         v
+      h ------> i
+        bottom
+```
+
+is said to **commute** if there is a homotopy `left ∙h bottom ~ top ∙h right `.
```
Comment (fredrik-bakke) [inline src/foundation-core/commuting-squares-of-homotopies.lagda.md:32]:
```suggestion
is said to **commute** if there is a homotopy `left ∙h bottom ~ top ∙h right`.
```

File: src/foundation-core/commuting-squares-of-homotopies.lagda.md [hunk 21]
```diff
@@ -0,0 +1,46 @@
...
+Such a homotopy is called a **coherence** of the square.
```
Comment (fredrik-bakke) [inline src/foundation-core/commuting-squares-of-homotopies.lagda.md:33]:
```suggestion
Such a homotopy is called a {{#concept "coherence" Disambiguation="square of homotopies"}} of the square.
```

File: src/foundation-core/commuting-squares-of-maps.lagda.md [hunk 22]
```diff
@@ -24,15 +24,24 @@ open import foundation-core.whiskering-homotopies
...
+       A --------> X
+       |           |
+  left |           | right
+       ∨           ∨
+       B --------> Y
+          bottom
 ```
 
-is said to commute if there is a homotopy between both composites.
+is said to **commute** if there is a homotopy
```
Comment (fredrik-bakke) [inline src/foundation-core/commuting-squares-of-maps.lagda.md:36]:
```suggestion
is said to {{#concept "commute" Disambiguation="square of maps"}} if there is a [homotopy](foundation-core.homotopies.md)
```

File: src/foundation-core/function-extensionality.lagda.md [hunk 23]
```diff
@@ -214,15 +214,16 @@ Consider a map `f : A → B` and two functions `g h : B → C`. Then the square
 commutes.
 
 ```agda
-coherence-square-htpy-eq-ap-precomp :
+coherence-square-homotopies-eq-ap-precomp :
```
Comment (fredrik-bakke) [inline src/foundation-core/function-extensionality.lagda.md:217]: `coherence-square-maps-htpy-eq-ap-precomp` or `coherence-htpy-eq-ap-precomp`

File: src/foundation-core/function-extensionality.lagda.md [hunk 24]
```diff
@@ -186,15 +186,15 @@ Then the square
 [commutes](foundation-core.commuting-squares-of-maps.md).
 
 ```agda
-coherence-square-htpy-eq-ap-precomp-Π :
+coherence-square-homotopies-htpy-eq-ap-precomp-Π :
```
Comment (fredrik-bakke) [inline src/foundation-core/function-extensionality.lagda.md:189]: Ah, actually, this is a coherence square of maps. so it should be `coherence-square-maps-htpy-eq-ap-precomp-Π`. But we could also consider just calling it `coherence-htpy-eq-ap-precomp-Π` as I don't think the shape or type of the edges add much information to the name. That should probably be part of a different refactoring though.

File: src/foundation-core/function-extensionality.lagda.md [hunk 25]
```diff
@@ -243,15 +244,15 @@ Consider a map `f : {x : A} → B x → C x` and two functions
 commutes.
 
 ```agda
-coherence-square-htpy-eq-ap-postcomp-Π :
+coherence-square-homotopies-eq-ap-postcomp-Π :
```
Comment (fredrik-bakke) [inline src/foundation-core/function-extensionality.lagda.md:247]: `coherence-square-maps-htpy-eq-ap-postcomp-Π` or `coherence-htpy-eq-ap-postcomp-Π`

File: src/foundation-core/function-extensionality.lagda.md [hunk 26]
```diff
@@ -271,16 +272,16 @@ Consider a map `f : B → C` and two functions `g h : A → B`. Then the square
 commutes.
 
 ```agda
-coherence-square-htpy-eq-ap-postcomp :
+coherence-square-homotopies-eq-ap-postcomp :
```
Comment (fredrik-bakke) [inline src/foundation-core/function-extensionality.lagda.md:275]: `coherence-square-maps-htpy-eq-ap-postcomp-Π` or `coherence-htpy-eq-ap-postcomp-Π`

File: src/foundation-core/identity-types.lagda.md [hunk 27]
```diff
@@ -131,30 +205,144 @@ module _
...
+```text
+  (p ∙ q) ∙ inv q ＝ p
+  (p ∙ inv q) ∙ q ＝ p.
+```
+
+In
+[`foundation.identity-types`](foundation.identity-types.md)`we will use these families of identifications to conclude that`concat
+p z`and`concat' x
+q`are [equivalences](foundation-core.equivalences.md) with inverses`concat (inv
+p) z`and`concat' x (inv q)`, respectively.
```
Comment (fredrik-bakke) [inline src/foundation-core/identity-types.lagda.md:299]:
```suggestion
In [`foundation.identity-types`](foundation.identity-types.md) we will use these families of identifications to conclude that `concat p z` and `concat' x q` are [equivalences](foundation-core.equivalences.md) with inverses `concat (inv p) z` and `concat' x (inv q)`, respectively.
```

File: src/foundation-core/identity-types.lagda.md [hunk 28]
```diff
@@ -131,30 +205,144 @@ module _
...
+  {l : Level} {A : UU l}
+  where
+
+  is-retraction-inv-concat :
+    {x y z : A} (p : x ＝ y) (q : y ＝ z) → (inv p ∙ (p ∙ q)) ＝ q
+  is-retraction-inv-concat refl q = refl
+
+  is-section-inv-concat :
+    {x y z : A} (p : x ＝ y) (r : x ＝ z) → (p ∙ (inv p ∙ r)) ＝ r
+  is-section-inv-concat refl refl = refl
```
Comment (fredrik-bakke) [inline src/foundation-core/identity-types.lagda.md:312]: I don't see why you would need to pattern-match on `r` in this proof.

```suggestion
  is-section-inv-concat :
    {x y z : A} (p : x ＝ y) (r : x ＝ z) → (p ∙ (inv p ∙ r)) ＝ r
  is-section-inv-concat refl r = refl
```

File: src/foundation-core/identity-types.lagda.md [hunk 29]
```diff
@@ -182,9 +370,56 @@ module _
   double-transpose-eq-concat' r refl refl q α = right-unit ∙ (α ∙ right-unit)
 ```
 
-The fact that `left-transpose-eq-concat` and `right-transpose-eq-concat` are
-equivalences is recorded in
-[`foundation.identity-types`](foundation.identity-types.md).
+### Splicing and unsplicing concatenations of identifications
```
Comment (fredrik-bakke) [inline src/foundation-core/identity-types.lagda.md:373]: Nice addition!

File: src/foundation/commuting-squares-of-maps.lagda.md [hunk 30]
```diff
@@ -218,30 +213,26 @@ module _
...
-    v                    v
-    B -----------------> Y
-            bottom
+            top
+       A --------> X
+       |           |
+  left |           | right
+       ∨           ∨
+       B --------> Y
+          bottom
```
Comment (fredrik-bakke) [inline src/foundation/commuting-squares-of-maps.lagda.md:222]: I don't see how this is an improvement

File: src/foundation/commuting-squares-of-maps.lagda.md [hunk 31]
```diff
@@ -218,30 +213,26 @@ module _
...
-        v                         v
-     (S → B) ----------------> (S → Y)
-             postcomp S bottom
+                        postcomp S top
+              (S → A) ------------------> (S → X)
+                 |                           |
+ postcomp S left |                           | postcomp S right
+                 ∨                           ∨
+              (S → B) ------------------> (S → Y).
+                       postcomp S bottom
```
Comment (fredrik-bakke) [inline src/foundation/commuting-squares-of-maps.lagda.md:235]: I don't see how this is an improvement

File: src/foundation/commuting-triangles-of-homotopies.lagda.md [hunk 32]
```diff
@@ -75,59 +79,68 @@ module _
...
-  {left : f ~ h} (right : g ~ h) {top : f ~ g}
+  {f g h i : (x : A) → B x} (H : i ~ f)
+  (left : f ~ h) (right : g ~ h) (top : f ~ g)
   where
 
-  right-whisk-htpy-coherence-triangle-homotopies :
-    {i : (x : A) → B x}
-    (T : coherence-triangle-homotopies left right top) (H : i ~ f) →
+  left-whisker-concat-coherence-triangle-homotopies :
+    (T : coherence-triangle-homotopies left right top) →
```
Comment (fredrik-bakke) [inline src/foundation/commuting-triangles-of-homotopies.lagda.md:123]: You've somehow switched what's left and right whiskering

File: src/foundation/commuting-triangles-of-homotopies.lagda.md [hunk 33]
```diff
@@ -75,59 +79,68 @@ module _
...
 
-  right-whisk-coherence-triangle-homotopies :
+  left-whisker-comp-coherence-triangle-homotopies :
     {l3 : Level} {X : UU l3}
     (T : coherence-triangle-homotopies left right top) (i : X → A) →
     coherence-triangle-homotopies
       {f = f ∘ i} {g ∘ i} {h ∘ i}
       (left ·r i) (right ·r i) (top ·r i)
-  right-whisk-coherence-triangle-homotopies T i = T ∘ i
+  left-whisker-comp-coherence-triangle-homotopies T i = T ∘ i
```
Comment (fredrik-bakke) [inline src/foundation/commuting-triangles-of-homotopies.lagda.md:145]: this is right whiskering

File: src/foundation/commuting-triangles-of-homotopies.lagda.md [hunk 34]
```diff
@@ -75,59 +79,68 @@ module _
...
+  right-whisker-comp-coherence-triangle-homotopies :
     {l3 : Level} {X : UU l3} (i : B → X)
     (T : coherence-triangle-homotopies left right top) →
     coherence-triangle-homotopies
       {f = i ∘ f} {i ∘ g} {i ∘ h}
       (i ·l left) (i ·l right) (i ·l top)
-  left-whisk-coherence-triangle-homotopies i =
-    distributivity-left-whisk i left right top
+  right-whisker-comp-coherence-triangle-homotopies i =
+    distributivity-left-whisker i left right top
```
Comment (fredrik-bakke) [inline src/foundation/commuting-triangles-of-homotopies.lagda.md:110]: This is left whiskering

File: src/foundation/commuting-triangles-of-identifications.lagda.md [hunk 35]
```diff
@@ -57,145 +61,355 @@ module _
...
+     (left ＝ top ∙ right) → left ＝ (top ∙ p) ∙ (p⁻¹ ∙ right).
+   ```
+
+   Similarly, we have a map
+
+   ```text
+     (left ＝ top ∙ right) → left ＝ (top ∙ p⁻¹) ∙ (p ∙ right).
+   ```
+
+Because concatenation of identifications is an equivalence, it follows that all
```
Comment (fredrik-bakke) [inline src/foundation/commuting-triangles-of-identifications.lagda.md:134]:
```suggestion
Because concatenation of identifications is an [equivalence](foundation-core.equivalences.md), it follows that all
```

File: src/foundation/commuting-triangles-of-identifications.lagda.md [hunk 36]
```diff
@@ -57,145 +61,355 @@ module _
...
+
+Furthermore, in the case where the identification `right` is `refl` we obtain an
+identification
+
+```text
+  inv right-unit ＝
+  map-coherence-triangle-identifications p refl p (inv right-unit)
+```
+
+and in the case where the identification `top` is refl` we obtain
```
Comment (fredrik-bakke) [inline src/foundation/commuting-triangles-of-identifications.lagda.md:387]:
```suggestion
and in the case where the identification `top` is `refl` we obtain
```

File: src/foundation/homotopies-morphisms-arrows.lagda.md [hunk 37]
```diff
@@ -0,0 +1,538 @@
...
+      ( comp-hom-arrow f g h γ β)
+  pr1 left-whisker-comp-hom-arrow =
+    htpy-domain-left-whisker-comp-hom-arrow
+  pr1 (pr2 left-whisker-comp-hom-arrow) =
+    htpy-codomain-left-whisker-comp-hom-arrow
+  pr2 (pr2 left-whisker-comp-hom-arrow) =
+    coh-left-whisker-comp-hom-arrow
+```
+
+#### Right whiskering
```
Comment (fredrik-bakke) [inline src/foundation/homotopies-morphisms-arrows.lagda.md:319]:
```suggestion
#### Right whiskering of homotopies of homotopies of morphisms of arrows with respect to composition
```

File: src/foundation/postcomposition-functions.lagda.md [hunk 38]
```diff
@@ -206,3 +208,26 @@ module _
...
+    eq-htpy-refl-htpy (h ∘ f)
+
+  compute-ap-postcomp-eq-htpy :
+    (H : f ~ g) →
+    eq-htpy (h ·l H) ＝ ap (postcomp A h) (eq-htpy H)
+  compute-ap-postcomp-eq-htpy H =
+    ( ap
+      ( λ K → eq-htpy (h ·l K))
+      ( inv (is-section-eq-htpy H))) ∙
+    ( compute-ap-postcomp-htpy-eq (eq-htpy H))
```
Comment (fredrik-bakke) [inline src/foundation/postcomposition-functions.lagda.md:232]: These are already defined in `foundation.function-extensionality` I think.

File: src/foundation/precomposition-functions.lagda.md [hunk 39]
```diff
@@ -151,3 +151,27 @@ module _
...
+
+  compute-ap-precomp-eq-htpy :
+    ( H : f ~ g) →
+    eq-htpy (H ·r h) ＝ ap (precomp h C) (eq-htpy H)
+  compute-ap-precomp-eq-htpy H =
+    ( ap
+      ( λ K → eq-htpy (K ·r h))
+      ( inv (is-section-eq-htpy H))) ∙
+    ( compute-ap-precomp-htpy-eq (eq-htpy H))
+```
```
Comment (fredrik-bakke) [inline src/foundation/precomposition-functions.lagda.md:177]: Aren't these already defined in `foundation(-core).function-extensionality`?

**Comment by fredrik-bakke** [comment]
I'm about half-way done again. So much to review 😵‍💫

**Comment by EgbertRijke** [comment]
> I'm about half-way done again. So much to review 😵‍💫

Thank you for doing it so quickly. I’m sorry that this pull request got so big. There were a lot of problems with this part of the library (duplications, bad names, confusing specifications, unrefactored refactorable code, and generally little coherence in how we went about higher path algebra, no explanations). Once I addressed those problems it broke later parts of the library, so I had to go fix those too.

File: src/foundation/commuting-squares-of-maps.lagda.md (hunk 30 above)
Comment (EgbertRijke) [reply src/foundation/commuting-squares-of-maps.lagda.md:222]: The original diagram was massive. This doesn’t happen in latex either. So I reduced the size without making the diagram appear cramped.

I switched ordinarily labelling of arrows, as they are more standard.

This diagram appears many times in our informal explanations, and now its appearance matches with its other occurrences, making our diagram formatting more uniform.

That’s three reasons:)

Comment (fredrik-bakke) [reply src/foundation/commuting-squares-of-maps.lagda.md:222]: While I'm not entirely sold on using `⇗` when the squares are not lax, I don't see why the diagrams should be more uniform, and I think the previous version was more aesthetically pleasing. Moreover, I don't see how the previous versions could be characterized as "massive". If anything, I think they are still kind of small:

image

(Note that the font size of `text` blocks is smaller than that of `agda`-blocks. Something we should fix, because it looks a little weird when non-type-checked code is placed next to type-checked code.)

Either way, I don't think it is worthwhile fighting over this, as I still very much consider our current solution to be temporary, so I will mark this conversation as resolved. Maybe I will finally have some time to implement a more permanent solution soon.

File: src/foundation-core/coherently-invertible-maps.lagda.md (hunk 19 above)
Comment (EgbertRijke) [reply src/foundation-core/coherently-invertible-maps.lagda.md]: This is a small request. It is no problem for me to implement it.

File: src/synthetic-homotopy-theory/dependent-coforks.lagda.md [hunk 40]
```diff
@@ -358,7 +351,14 @@ module _
...
                               ( d)
-                              ( inl a))))) ∙
+                              ( inl a))))
+                        ( coherence-square-dependent-cocone
+                            ( vertical-map-span-cocone-cofork f g)
+                            ( horizontal-map-span-cocone-cofork f g)
+                            ( cocone-codiagonal-cofork f g e)
+                            ( P)
+                            ( d)
+                            ( inl a))) ∙
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/dependent-coforks.lagda.md:361]:
```suggestion
                        ( coherence-square-dependent-cocone
                          ( vertical-map-span-cocone-cofork f g)
                          ( horizontal-map-span-cocone-cofork f g)
                          ( cocone-codiagonal-cofork f g e)
                          ( P)
                          ( d)
                          ( inl a))) ∙
```

File: src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md [hunk 41]
```diff
@@ -173,11 +173,11 @@ module _
...
       pr1 (pr2 (htpy-eq-dependent-cocone d' p))
 
-    coherence-square-htpy-eq-dependent-cocone :
+    coherence-square-homotopies-eq-dependent-cocone :
       coherence-htpy-dependent-cocone d'
         ( horizontal-htpy-eq-dependent-cocone)
         ( vertical-htpy-eq-dependent-cocone)
-    coherence-square-htpy-eq-dependent-cocone =
+    coherence-square-homotopies-eq-dependent-cocone =
       pr2 (pr2 (htpy-eq-dependent-cocone d' p))
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md:181]: I'm not entirely sure this renaming is correct

File: src/synthetic-homotopy-theory/dependent-coforks.lagda.md (hunk 40 above)
Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/dependent-coforks.lagda.md:361]: Formatting errors in files not directly related to the subject of the PR definitely starts to feel out of scope, but I will implement this change.

Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/dependent-coforks.lagda.md:361]: Ah, perhaps it was a formatting error that I introduced. Then I definitely need to address it. Thanks for catching it!

File: src/foundation/postcomposition-functions.lagda.md (hunk 38 above)
Comment (EgbertRijke) [reply src/foundation/postcomposition-functions.lagda.md:232]: You're right! I moved these over from another file, so I didn't catch that they were already duplicate.

File: src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md (hunk 41 above)
Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md:181]: Good catch

File: src/foundation-core/function-extensionality.lagda.md
Comment (fredrik-bakke) [inline src/foundation-core/function-extensionality.lagda.md:1]: Lol, we've been fighting over whether this file should exist or not. But seems you may have found a better solution? I'll have to see during the review again. Anyway. Since there are no formalizations left in this file I think you should delete it.

File: src/foundation/commuting-squares-of-homotopies.lagda.md [hunk 42]
```diff
@@ -34,8 +34,11 @@ A square of [homotopies](foundation-core.homotopies.md)
         bottom
 ```
 
-is said to **commute** if there is a homotopy `left ∙h bottom ~ top ∙h right `.
-Such a homotopy is called a **coherence** of the square.
+is said to be a {{#concept "commuting sqsuare" Disambiguation="homotopies"}} of
```
Comment (fredrik-bakke) [inline src/foundation/commuting-squares-of-homotopies.lagda.md:37]:
```suggestion
is said to be a {{#concept "commuting square" Disambiguation="homotopies"}} of
```

File: src/foundation/commuting-triangles-of-maps.lagda.md [hunk 43]
```diff
@@ -196,3 +198,66 @@ module _
...
+    coherence-triangle-maps diagonal right top →
+    coherence-square-maps top left right bottom
+  horizontal-pasting-coherence-triangle-maps diagonal H K = H ∙h K
+
+  compute-refl-htpy-horizontal-pasting-coherence-triangle-maps :
+    (diagonal : A → Y) →
+    (H : coherence-triangle-maps' diagonal bottom left) →
+    (K : coherence-triangle-maps diagonal right top) →
+    (horizontal-pasting-htpy-coherence-triangle-maps refl-htpy H K) ~
+    (horizontal-pasting-coherence-triangle-maps diagonal H K)
```
Comment (fredrik-bakke) [inline src/foundation/commuting-triangles-of-maps.lagda.md:260]:
```suggestion
    ( horizontal-pasting-htpy-coherence-triangle-maps refl-htpy H K) ~
    ( horizontal-pasting-coherence-triangle-maps diagonal H K)
```

File: src/foundation/composition-algebra.lagda.md [hunk 44]
```diff
@@ -78,7 +78,7 @@ module _
     (h : C → A) (H : f ~ g) (S : UU l4) →
     precomp h S ·l htpy-precomp H S ~ htpy-precomp (H ·r h) S
   inv-distributive-htpy-precomp-right-whisker h H S i =
-    coherence-square-eq-htpy-ap-precomp h (i ∘ f) (i ∘ g) (i ·l H)
+    compute-eq-htpy-ap-precomp h (i ·l H)
```
Comment (fredrik-bakke) [inline src/foundation/composition-algebra.lagda.md:81]: Yeah, that's better 🙂

File: src/foundation/evaluation-functions.lagda.md [hunk 45]
```diff
@@ -0,0 +1,120 @@
...
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} (B : A → UU l2) (a : A)
+  where
+
+  ev-dependent-function : ((x : A) → B x) → B a
+  ev-dependent-function = ev a
+```
+
+### The evaluation function for nondependent functions
```
Comment (fredrik-bakke) [inline src/foundation/evaluation-functions.lagda.md:54]: TIL
image

(I've been using a hyphen, but apparantly that's wrong)

File: src/foundation/evaluation-functions.lagda.md [hunk 46]
```diff
@@ -0,0 +1,120 @@
...
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} {B : A → UU l2} (a : A)
+  where
+
+  ev-implicit-function : ({x : A} → B x) → B a
+  ev-implicit-function f = f {a}
+```
+
+### The evaluation function of implicit function, specified with an explicit type family
```
Comment (fredrik-bakke) [inline src/foundation/evaluation-functions.lagda.md:76]:
```suggestion
### The evaluation function of implicit functions, specified with an explicit type family
```

File: src/foundation/evaluation-functions.lagda.md [hunk 47]
```diff
@@ -0,0 +1,120 @@
...
+For any two functions `f g : A → B`, the action on identifications of
+`ev-function B a`
+
+```text
+  ap (ev-function B a) : (f ＝ g) → (f a ＝ g a)
+```
+
+is homotopic to the map `p ↦ htpy-eq p a`, where `htpy-eq` is the operation that
+constructs a homotopy from an identification of functions, which we constructed
+in [foundation.function-extensionality. In other words, the triangle of maps
```
Comment (fredrik-bakke) [inline src/foundation/evaluation-functions.lagda.md:100]:
```suggestion
in [`foundation.function-extensionality`](foundation.function-extensionality.md). In other words, the triangle of maps
```

File: src/foundation/evaluation-functions.lagda.md [hunk 48]
```diff
@@ -0,0 +1,120 @@
...
+
+[commutes](foundation-core.commuting-triangles-of-maps.md).
+
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} {B : UU l2} (a : A)
+  where
+
+  ap-ev : {f g : A → B} (p : f ＝ g) → (ap (ev-function B a) p) ＝ htpy-eq p a
+  ap-ev refl = refl
```
Comment (fredrik-bakke) [inline src/foundation/evaluation-functions.lagda.md:119]: Maybe I'm losing it, but what if we used `ap (ev-function B a) p` as the definition for `htpy-eq`? I could foresee us getting lots of nice definitional equalities w.r.t. whiskering and so on if we did.

Comment (fredrik-bakke) [reply src/foundation/evaluation-functions.lagda.md:119]: Not that this is relevant to your PR of course

File: src/foundation-core/function-extensionality.lagda.md
Comment (EgbertRijke) [reply src/foundation-core/function-extensionality.lagda.md:1]: I know... but last time you created the file we didn't have files for pre- and postcomposition yet. It seemed more natural to put those lemmas there, and to keep `function-extensionality` really light on dependencies. In some other files I also reduced the dependencies by not using simply replacable definitions from later files, and this reduced a lot of the tension that generates cyclic dependencies every now and then.

File: src/foundation/evaluation-functions.lagda.md (hunk 45 above)
Comment (EgbertRijke) [reply src/foundation/evaluation-functions.lagda.md:54]: I can do a quick search

File: src/foundation/transposition-identifications-along-equivalences.lagda.md [hunk 49]
```diff
@@ -0,0 +1,230 @@
...
+
+of [identity types](foundation-core.identity-types.md). There are two ways of
+constructing this equivalence. One way uses the fact that `e⁻¹` is a
+[section](foundation-core.sections.md) of `e`, from which it follows that
+
+```text
+ (e x ＝ y) ≃ (e x ＝ e e⁻¹ y) ≃ (x ＝ e⁻¹ y).
+```
+
+The other way usex the fact that `e⁻¹` is a
```
Comment (fredrik-bakke) [inline src/foundation/transposition-identifications-along-equivalences.lagda.md:40]:
```suggestion
The other way uses the fact that `e⁻¹` is a
```

File: src/foundation/transposition-identifications-along-equivalences.lagda.md
Comment (fredrik-bakke) [inline src/foundation/transposition-identifications-along-equivalences.lagda.md:1]: Very nice file. I just hope people will find it

File: src/graph-theory/equivalences-directed-graphs.lagda.md [hunk 50]
```diff
@@ -24,11 +23,14 @@ open import foundation.homotopies
 open import foundation.identity-types
 open import foundation.structure-identity-principle
 open import foundation.torsorial-type-families
+open import foundation.transposition-identifications-along-equivalences
 open import foundation.type-arithmetic-dependent-pair-types
 open import foundation.type-theoretic-principle-of-choice
 open import foundation.univalence
 open import foundation.universe-levels
 
+open import foundation-core.equivalences
```
Comment (fredrik-bakke) [inline src/graph-theory/equivalences-directed-graphs.lagda.md:32]: I don't see why you would need to import core here
```suggestion
open import foundation.equivalences
```

File: src/structured-types/initial-pointed-type-equipped-with-automorphism.lagda.md [hunk 51]
```diff
@@ -14,13 +14,15 @@ open import foundation.action-on-identifications-functions
...
 open import foundation.dependent-pair-types
-open import foundation.equivalences
 open import foundation.homotopies
 open import foundation.identity-types
 open import foundation.iterating-automorphisms
+open import foundation.transposition-identifications-along-equivalences
 open import foundation.unit-type
 open import foundation.universe-levels
 
+open import foundation-core.equivalences
```
Comment (fredrik-bakke) [inline src/structured-types/initial-pointed-type-equipped-with-automorphism.lagda.md:24]:
```suggestion
open import foundation.equivalences
```
Is this a greedy search and replace?

File: src/foundation/evaluation-functions.lagda.md (hunk 48 above)
Comment (EgbertRijke) [reply src/foundation/evaluation-functions.lagda.md:119]: That's a very nice idea! We should use the dependent version, of course, and check that it satisfies the expected judgmental equality at `refl`, but I'm definitely open to it. Good find!

File: src/structured-types/initial-pointed-type-equipped-with-automorphism.lagda.md (hunk 51 above)
Comment (EgbertRijke) [reply src/structured-types/initial-pointed-type-equipped-with-automorphism.lagda.md:24]: No that was actually me not realizing that I was outside of foundation:)

File: src/foundation-core/function-extensionality.lagda.md
Comment (EgbertRijke) [reply src/foundation-core/function-extensionality.lagda.md:1]: To be sure, I'm not opposed to having a file in foundation-core if it is necessary for some reason. But if it is not necessary then it is my preference to not split content over two files.

File: src/graph-theory/equivalences-directed-graphs.lagda.md (hunk 50 above)
Comment (EgbertRijke) [reply src/graph-theory/equivalences-directed-graphs.lagda.md:32]: My mistake. Thanks for catching it!

**Comment by EgbertRijke** [comment]
I finished working through this round of review comments.

File: src/foundation/evaluation-functions.lagda.md (hunk 48 above)
Comment (EgbertRijke) [reply src/foundation/evaluation-functions.lagda.md:119]: So, I actually put it in the library, and it made one step somewhere shorter:)

File: src/foundation/action-on-higher-identifications-functions.lagda.md [hunk 52]
```diff
@@ -0,0 +1,189 @@
+# The action of functions on higher identifications
```
Comment (fredrik-bakke) [inline src/foundation/action-on-higher-identifications-functions.lagda.md:1]: Can you add a `## See also` link to this file in `action-on-identifications-functions`?

File: src/foundation/commuting-squares-of-homotopies.lagda.md [hunk 53]
```diff
@@ -28,18 +34,258 @@ A square of [homotopies](foundation-core.homotopies.md)
...
+      f ------> g                    f -------------> g
+      |         |                    |                |
+ left |         | right    ≃    left |                | right ∙h H
+      ∨         ∨                    ∨                ∨
+      h ------> i                    h -------------> j
+        bottom                          bottom ∙h H
+```
+
+This is the
+{{#concept "right whiskering" Disambiguation="commuting squares of homotopies with respect to concatenation"}}
```
Comment (fredrik-bakke) [inline src/foundation/commuting-squares-of-homotopies.lagda.md:72]:
```suggestion
{{#concept "right whiskering" Disambiguation="commuting squares of homotopies with respect to concatenation" Agda=right-whisker-concat-coherence-square-homotopies}}
```

File: src/foundation/commuting-squares-of-homotopies.lagda.md [hunk 54]
```diff
@@ -28,18 +34,258 @@ A square of [homotopies](foundation-core.homotopies.md)
...
+      f ------> g                         e ----------> g
+      |         |                         |             |
+ left |         | right    ≃    H ∙h left |             | right
+      ∨         ∨                         ∨             ∨
+      h ------> i                         h ----------> i
+        bottom                                bottom
+```
+
+This is the
+{{#concept "left whiskering" Disambiguation="commuting squares of homotopies with respect to concatenation"}}
```
Comment (fredrik-bakke) [inline src/foundation/commuting-squares-of-homotopies.lagda.md:137]:
```suggestion
{{#concept "left whiskering" Disambiguation="commuting squares of homotopies with respect to concatenation" Agda=left-whisker-concat-coherence-square-homotopies}}
```

File: src/foundation/commuting-squares-of-homotopies.lagda.md [hunk 55]
```diff
@@ -28,18 +34,258 @@ A square of [homotopies](foundation-core.homotopies.md)
...
```
Comment (fredrik-bakke) [inline src/foundation/commuting-squares-of-homotopies.lagda.md:202]:
```suggestion
{{#concept "left whiskering" Disambiguation="commuting squares of homotopies with respect to concatenation" Agda=double-whisker-coherence-square-homotopies}}
```

File: src/foundation/commuting-squares-of-homotopies.lagda.md [hunk 56]
```diff
@@ -28,18 +34,258 @@ A square of [homotopies](foundation-core.homotopies.md)
...
+  { l1 l2 l3 : Level} {A : UU l1} {B : UU l2} {C : UU l3}
+  ( f : B → C) {g h h' k : A → B}
+  ( H : g ~ h) (H' : g ~ h') {K : h ~ k} {K' : h' ~ k}
+  where
+
+  ap-left-whisker-concat-coherence-square-homotopies :
+    coherence-square-homotopies H H' K K' →
+    coherence-square-homotopies (f ·l H) (f ·l H') (f ·l K) (f ·l K')
+  ap-left-whisker-concat-coherence-square-homotopies α a =
+    map-coherence-square-identifications f (H a) (H' a) (K a) (K' a) (α a)
```
Comment (fredrik-bakke) [inline src/foundation/commuting-squares-of-homotopies.lagda.md:279]: Should this be `map-...` instead?

File: src/foundation/commuting-squares-of-homotopies.lagda.md [hunk 57]
```diff
@@ -28,18 +34,258 @@ A square of [homotopies](foundation-core.homotopies.md)
...
   where
 
-  coherence-square-homotopies :
-    (top : f ~ g) (left : f ~ h) (right : g ~ i) (bottom : h ~ i) → UU (l1 ⊔ l2)
-  coherence-square-homotopies top left right bottom =
-    left ∙h bottom ~ top ∙h right
+  ap-right-whisker-concat-coherence-square-homotopies :
+    coherence-square-homotopies H H' K K' →
+    coherence-square-homotopies (H ·r f) (H' ·r f) (K ·r f) (K' ·r f)
+  ap-right-whisker-concat-coherence-square-homotopies α = α ·r f
```
Comment (fredrik-bakke) [inline src/foundation/commuting-squares-of-homotopies.lagda.md:290]: This also? `map-...`

File: src/foundation/commuting-squares-of-identifications.lagda.md [hunk 58]
```diff
@@ -22,197 +26,1654 @@ open import foundation-core.identity-types
...
+           top
+       x -------> y
+       |          |
+  left |          | right
+       ∨          ∨
+       z -------> w
+          bottom
 ```
 
 is said to **commute** if there is an identification
```
Comment (fredrik-bakke) [inline src/foundation/commuting-squares-of-identifications.lagda.md:38]:
```suggestion
is said to {{#concept "commute" Disambiguation="commuting square of identifications"}} if there is an identification
```

File: src/foundation/commuting-squares-of-identifications.lagda.md [hunk 59]
```diff
@@ -22,197 +26,1654 @@ open import foundation-core.identity-types
...
+  where
+
+  equiv-left-whisker-concat-coherence-square-identifications :
+    (p : u ＝ x)
+    (top : x ＝ y) (left : x ＝ z) (right : y ＝ w) (bottom : z ＝ w) →
+    coherence-square-identifications top left right bottom ≃
     coherence-square-identifications (p ∙ top) (p ∙ left) right bottom
-  coherence-square-identifications-top-left-whisk' refl sq = sq
+  equiv-left-whisker-concat-coherence-square-identifications refl
+    top left right bottom = id-equiv
```
Comment (fredrik-bakke) [inline src/foundation/commuting-squares-of-identifications.lagda.md:702]:
```suggestion
  equiv-left-whisker-concat-coherence-square-identifications
    refl top left right bottom =
    id-equiv
```

File: src/foundation/function-extensionality.lagda.md [hunk 60]
```diff
@@ -2,200 +2,276 @@
...
+### `htpy-eq` preserves concatenation of identifications
+
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} {B : A → UU l2} {f g h : (x : A) → B x}
+  where
+
+  htpy-eq-concat :
+    (p : f ＝ g) (q : g ＝ h) → htpy-eq (p ∙ q) ＝ htpy-eq p ∙h htpy-eq q
+  htpy-eq-concat refl refl = refl
```
Comment (fredrik-bakke) [inline src/foundation/function-extensionality.lagda.md:203]: This should probably be swapped with an instantiation of the same result for `ap`

File: src/foundation/function-extensionality.lagda.md [hunk 61]
```diff
@@ -2,200 +2,276 @@
...
                 inv-htpy
 ```
 
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} {B : A → UU l2} {f g : (x : A) → B x}
+  where
+
+  compute-htpy-eq-inv : inv-htpy {f = f} {g} ∘ htpy-eq ~ htpy-eq ∘ inv
+  compute-htpy-eq-inv refl = refl
```
Comment (fredrik-bakke) [inline src/foundation/function-extensionality.lagda.md:244]: This should probably be swapped with an instantiation of the same result for `ap`

File: src/orthogonal-factorization-systems/pullback-hom.lagda.md [hunk 62]
```diff
@@ -75,173 +114,332 @@ pushout-product:
...
-  pr1 cone-pullback-hom' = postcomp B g
-  pr1 (pr2 cone-pullback-hom') = precomp f X
-  pr2 (pr2 cone-pullback-hom') = refl-htpy
+  cone-pullback-hom : cone (precomp f Y) (postcomp A g) (B → X)
+  pr1 cone-pullback-hom = postcomp B g
+  pr1 (pr2 cone-pullback-hom) = precomp f X
+  pr2 (pr2 cone-pullback-hom) = refl-htpy
+
+  gap-cone-pullback-hom : (B → X) → type-standard-pullback-hom f g
+  gap-cone-pullback-hom = gap (precomp f Y) (postcomp A g) cone-pullback-hom
```
Comment (fredrik-bakke) [inline src/orthogonal-factorization-systems/pullback-hom.lagda.md:242]: Why not `gap-pullback-hom`?

File: src/orthogonal-factorization-systems/pullback-hom.lagda.md [hunk 63]
```diff
@@ -75,173 +114,332 @@ pushout-product:
...
+  (f : A → B) (g : X → Y)
+  where
+
+  triangle-pullback-hom :
+    coherence-triangle-maps'
+      ( gap-cone-pullback-hom f g)
+      ( map-compute-pullback-hom f g)
+      ( pullback-hom f g)
+  triangle-pullback-hom j =
+    eq-pair-Σ refl (eq-pair-Σ refl (is-retraction-eq-htpy refl))
```
Comment (fredrik-bakke) [inline src/orthogonal-factorization-systems/pullback-hom.lagda.md:340]: I've been using `eq-pair-eq-pr2` for these kinds of proofs recently since the type of the second component reduces in this case. Maybe you want to weigh in on wheter we want to rename it, but otherwise I think it should be used.

Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/pullback-hom.lagda.md:340]:
```suggestion
    eq-pair-eq-pr2 (eq-pair-eq-pr2 (is-retraction-eq-htpy refl))
```

File: src/orthogonal-factorization-systems/orthogonal-maps.lagda.md [hunk 64]
```diff
@@ -224,20 +225,24 @@ module _
...
-      ( map-fibered-map-type-standard-pullback-hom f g)
-      ( gap (precomp f Y) (postcomp A g) (cone-pullback-hom' f g))
-      ( H)
-      ( is-equiv-map-equiv (equiv-fibered-map-type-standard-pullback-hom f g))
+  is-orthogonal-is-orthogonal-pullback-condition =
+    is-equiv-top-map-triangle
+      ( gap-cone-pullback-hom f g)
+      ( map-compute-pullback-hom f g)
+      ( pullback-hom f g)
+      ( inv-htpy (triangle-pullback-hom f g))
```
Comment (fredrik-bakke) [inline src/orthogonal-factorization-systems/orthogonal-maps.lagda.md:244]: regarding our discussion earlier, these two proofs would reduce if `eq-htpy refl-htpy ≐ refl`

File: src/orthogonal-factorization-systems/pullback-hom.lagda.md [hunk 65]
```diff
@@ -75,173 +114,332 @@ pushout-product:
...
+  pr2 (pr2 (map-inv-compute-pullback-hom h)) =
+    coh-standard-pullback-hom f g h
+
+  is-section-map-inv-compute-pullback-hom :
+    is-section map-compute-pullback-hom map-inv-compute-pullback-hom
+  is-section-map-inv-compute-pullback-hom h =
+    eq-pair-Σ refl
+      ( eq-pair-Σ refl
+        ( is-retraction-eq-htpy (eq-coh-standard-pullback-hom f g h)))
+
```
Comment (fredrik-bakke) [inline src/orthogonal-factorization-systems/pullback-hom.lagda.md:278]:
```suggestion
    eq-pair-eq-pr2
      ( eq-pair-eq-pr2
        ( is-retraction-eq-htpy (eq-coh-standard-pullback-hom f g h)))

```

File: src/orthogonal-factorization-systems/pullback-hom.lagda.md [hunk 66]
```diff
@@ -75,173 +114,332 @@ pushout-product:
...
+  is-retraction-map-inv-compute-pullback-hom :
+    is-retraction map-compute-pullback-hom map-inv-compute-pullback-hom
+  is-retraction-map-inv-compute-pullback-hom h =
+    eq-pair-Σ refl
```
Comment (fredrik-bakke) [inline src/orthogonal-factorization-systems/pullback-hom.lagda.md:282]:
```suggestion
    eq-pair-eq-pr2 (eq-pair-eq-pr2 (is-section-eq-htpy (coh-hom-arrow f g h)))
```

File: src/orthogonal-factorization-systems/pullback-hom.lagda.md [hunk 67]
```diff
@@ -75,173 +114,332 @@ pushout-product:
...
+      ( eq-pair-Σ refl (is-section-eq-htpy (coh-hom-arrow f g h)))
```
Comment (fredrik-bakke) [inline src/orthogonal-factorization-systems/pullback-hom.lagda.md:283]:
```suggestion
    eq-pair-eq-pr2 (eq-pair-eq-pr2 (is-section-eq-htpy (coh-hom-arrow f g h)))
```

File: src/orthogonal-factorization-systems/pullback-hom.lagda.md [hunk 68]
```diff
@@ -270,15 +485,31 @@ module _
...
+      ( map-domain-right-whisker-hom-arrow α)
+      ( map-codomain-right-whisker-hom-arrow α)
+  coh-right-whisker-hom-arrow α =
+    coh-hom-arrow f g α ·r h
+
+  right-whisker-hom-arrow :
+    hom-arrow f g → hom-arrow (f ∘ h) g
+  pr1 (right-whisker-hom-arrow α) = map-domain-right-whisker-hom-arrow α
+  pr1 (pr2 (right-whisker-hom-arrow α)) = map-codomain-right-whisker-hom-arrow α
+  pr2 (pr2 (right-whisker-hom-arrow α)) = coh-right-whisker-hom-arrow α
```
Comment (fredrik-bakke) [inline src/orthogonal-factorization-systems/pullback-hom.lagda.md:506]: This hardly looks like the right place for these definitions

File: src/orthogonal-factorization-systems/lifting-squares.lagda.md [hunk 69]
```diff
@@ -8,280 +8,323 @@ module orthogonal-factorization-systems.lifting-squares where
...
 open import orthogonal-factorization-systems.lifts-of-maps
+open import orthogonal-factorization-systems.pullback-hom
 ```
 
 </details>
 
 ## Idea
 
-A **lifting square** is a commuting square
+A **lifting square** of a commuting square
```
Comment (fredrik-bakke) [inline src/orthogonal-factorization-systems/lifting-squares.lagda.md:45]:
```suggestion
A {{#concept "lifting square" Disambiguation="maps of types" Agda=lifting-square}} of a commuting square
```

File: src/orthogonal-factorization-systems/lifting-squares.lagda.md [hunk 70]
```diff
@@ -8,280 +8,323 @@ module orthogonal-factorization-systems.lifting-squares where
...
+    coherence-htpy-lifting-square f g α k k
+      ( htpy-diagonal-map-refl-htpy-lifting-square)
+  coh-refl-htpy-lifting-square =
+    right-unit-law-concat-htpy-hom-arrow f g α
+      ( pullback-hom f g (diagonal-map-lifting-square f g α k))
+      ( is-lifting-diagonal-map-lifting-square f g α k)
+
+  refl-htpy-lifting-square : htpy-lifting-square f g α k k
+  pr1 refl-htpy-lifting-square = htpy-diagonal-map-refl-htpy-lifting-square
+  pr2 refl-htpy-lifting-square = coh-refl-htpy-lifting-square
```
Comment (fredrik-bakke) [inline src/orthogonal-factorization-systems/lifting-squares.lagda.md:229]: 😍

File: src/orthogonal-factorization-systems/lifting-squares.lagda.md [hunk 71]
```diff
@@ -8,280 +8,323 @@ module orthogonal-factorization-systems.lifting-squares where
...
+
+  is-torsorial-htpy-lifting-square :
+    is-torsorial (htpy-lifting-square f g α l)
+  is-torsorial-htpy-lifting-square =
+    is-torsorial-Eq-structure
+      ( is-torsorial-htpy _)
+      ( diagonal-map-lifting-square f g α l , refl-htpy)
+      ( is-torsorial-htpy-htpy-hom-arrow f g α
+        ( pullback-hom f g (diagonal-map-lifting-square f g α l))
+        ( _))
```
Comment (fredrik-bakke) [inline src/orthogonal-factorization-systems/lifting-squares.lagda.md:313]: 😶‍🌫️

File: src/orthogonal-factorization-systems/lifting-squares.lagda.md
Comment (fredrik-bakke) [inline src/orthogonal-factorization-systems/lifting-squares.lagda.md:1]: Absolutely marvelous. Thank you so much for doing this!

File: src/orthogonal-factorization-systems/orthogonal-maps.lagda.md (hunk 64 above)
Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/orthogonal-maps.lagda.md:244]: Actually, this is a great reason not to make this a rewrite rule. We will not have as good control anymore of where we are applying function extensionality.

File: src/orthogonal-factorization-systems/pullback-hom.lagda.md [hunk 72]
```diff
@@ -253,15 +451,32 @@ module _
...
+      ( f)
+      ( h ∘ g)
+      ( map-codomain-left-whisker-hom-arrow α)
+  coh-left-whisker-hom-arrow α = h ·l (coh-hom-arrow f g α)
+
+  left-whisker-hom-arrow :
+    hom-arrow f g → hom-arrow f (h ∘ g)
+  pr1 (left-whisker-hom-arrow α) = map-domain-left-whisker-hom-arrow α
+  pr1 (pr2 (left-whisker-hom-arrow α)) = map-codomain-left-whisker-hom-arrow α
+  pr2 (pr2 (left-whisker-hom-arrow α)) = coh-left-whisker-hom-arrow α
```
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/orthogonal-factorization-systems/pullback-hom.lagda.md:473]: I just edited definitions that were already there:)

File: src/orthogonal-factorization-systems/lifting-squares.lagda.md (hunk 70 above)
Comment (EgbertRijke) [reply src/orthogonal-factorization-systems/lifting-squares.lagda.md:229]: The power of refactoring!

File: src/orthogonal-factorization-systems/lifting-squares.lagda.md (hunk 69 above)
Comment (EgbertRijke) [reply src/orthogonal-factorization-systems/lifting-squares.lagda.md:45]: Would you mind if I change the terminology to "lifting of a square"? It sounds more accurate to me, because the commuting square is in the context.

File: src/orthogonal-factorization-systems/pullback-hom.lagda.md (hunk 68 above)
Comment (EgbertRijke) [reply src/orthogonal-factorization-systems/pullback-hom.lagda.md:506]: I agree but I will let the original author of these definitions deal with this:)

File: src/orthogonal-factorization-systems/lifting-squares.lagda.md (hunk 69 above)
Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/lifting-squares.lagda.md:45]: How about lifting _in_ a square? lifting of a square sounds like a different operation to me intuitively speaking

File: src/orthogonal-factorization-systems/pullback-hom.lagda.md (hunk 65 above)
Comment (EgbertRijke) [reply src/orthogonal-factorization-systems/pullback-hom.lagda.md:278]: What is `eq-pair-eq-pr2`? That name sounds so unintuitive to me. I think that if you want me to use it, then I'm gonna rename that function 😅

File: src/foundation/whiskering-higher-homotopies-composition.lagda.md [hunk 73]
```diff
@@ -0,0 +1,83 @@
...
+the
+[action on higher identifications of functions](foundation.action-on-higher-identifications-functions.md)
+by
+
+```text
+  α x ↦ ap² h (α x).
+```
+
+Similarly, the {{#concept "right whiskering" Disambiguation="2-homotopies with
+respect to composition" Agda=right-whisker-comp²]} is defined to be the
```
Comment (fredrik-bakke) [inline src/foundation/whiskering-higher-homotopies-composition.lagda.md:41]:
```suggestion
Similarly, the {{#concept "right whiskering" Disambiguation="2-homotopies with respect to composition" Agda=right-whisker-comp²}} is defined to be the
```

File: src/orthogonal-factorization-systems/pullback-hom.lagda.md (hunk 65 above)
Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/pullback-hom.lagda.md:278]: It's `eq-pair-Σ refl` :) I think the name looks awful, but I wouldn't call it unintuitive.

File: src/orthogonal-factorization-systems/orthogonal-maps.lagda.md (hunk 64 above)
Comment (EgbertRijke) [reply src/orthogonal-factorization-systems/orthogonal-maps.lagda.md:244]: Sure, but that's such a minor benefit and we'd have to break the semantics for it. Learning how to deal with identifications is worth much more than giving in to what-if-this-equality-was-judgmental desires.

File: src/foundation/whiskering-homotopies-composition.lagda.md [hunk 74]
```diff
@@ -40,15 +45,20 @@ whiskering** operation assumes a diagram of the form
                h
 ```
 
-and is defined to be a function `_·r f : (g ~ h) → (g ∘ f ~ h ∘ f)`.
+and is defined to be a function `H ↦ H ·r f : (g ~ h) → (g ∘ f ~ h ∘ f)`.
```
Comment (fredrik-bakke) [inline src/foundation/whiskering-homotopies-composition.lagda.md:48]:
```suggestion
and is defined to be the function `H ↦ H ·r f : (g ~ h) → (g ∘ f ~ h ∘ f)`.
```

File: src/foundation/whiskering-homotopies-composition.lagda.md [hunk 75]
```diff
@@ -30,8 +33,10 @@ assumes a diagram of the form
       g
 ```
 
-and is defined to be a function `h ·l_ : (f ~ g) → (h ∘ f ~ h ∘ g)`. The **right
-whiskering** operation assumes a diagram of the form
+and is defined to be a function `H ↦ h ·l H : (f ~ g) → (h ∘ f ~ h ∘ g)`. The
```
Comment (fredrik-bakke) [inline src/foundation/whiskering-homotopies-composition.lagda.md:36]:
```suggestion
and is defined to be the function `H ↦ h ·l H : (f ~ g) → (h ∘ f ~ h ∘ g)`. The
```

File: src/foundation/whiskering-homotopies-concatenation.lagda.md [hunk 76]
```diff
@@ -0,0 +1,157 @@
...
+```
+
+</details>
+
+## Idea
+
+Consider a homotopy `H : f ~ g` and a homotopy `K : I ~ J` between two
+homotopies `I J : g ~ f`. The
+{{#concept "left whiskering" Disambiguation="homotopies with respect to concatenation" Agda=left-whisker-concat-htpy}}
+of `H` and `K` is a homotopy `H ∙ I ~ H ∙ J`. In other words, left whiskering of
```
Comment (fredrik-bakke) [inline src/foundation/whiskering-homotopies-concatenation.lagda.md:26]:
```suggestion
of `H` and `K` is a homotopy `H ∙h I ~ H ∙h J`. In other words, left whiskering of
```

File: src/orthogonal-factorization-systems/orthogonal-maps.lagda.md (hunk 64 above)
Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/orthogonal-maps.lagda.md:244]: I'm not entirely convinced there isn't an easy argument that shows this doesn't break semantics, although this certainly isn't my expertise, and we should certainly make sure this is the case before this is ever implemented. Anyway, I was mainly answering your question from earlier about whether it would ever be useful.

File: src/foundation/whiskering-homotopies-concatenation.lagda.md [hunk 77]
```diff
@@ -0,0 +1,157 @@
...
+We implement the left whiskering operation of homotopies with respect to
+concatenation as an instance of a general left whiskering operation.
+
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} {B : A → UU l2}
+  where
+
+  left-whisker-concat-htpy :
+    left-whiskering-operation ((x : A) → B x) _~_ _∙h_ _~_
```
Comment (fredrik-bakke) [inline src/foundation/whiskering-homotopies-concatenation.lagda.md:61]:
```suggestion
    left-whiskering-operation ((x : A) → B x) (_~_) (_∙h_) (_~_)
```

File: src/foundation/whiskering-homotopies-concatenation.lagda.md [hunk 78]
```diff
@@ -0,0 +1,157 @@
...
+We implement the right whiskering operation of homotopies with respect to
+concatenation as an instance of a general right whiskering operation.
+
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} {B : A → UU l2}
+  where
+
+  right-whisker-concat-htpy :
+    right-whiskering-operation ((x : A) → B x) _~_ _∙h_ _~_
```
Comment (fredrik-bakke) [inline src/foundation/whiskering-homotopies-concatenation.lagda.md:82]:
```suggestion
    right-whiskering-operation ((x : A) → B x) (_~_) (_∙h_) (_~_)
```

File: src/foundation/whiskering-homotopies-concatenation.lagda.md [hunk 79]
```diff
@@ -0,0 +1,157 @@
...
+of `H` and `K` is a homotopy `H ∙ I ~ H ∙ J`. In other words, left whiskering of
+homotopies with respect to concatenation is a
+[whiskering operation](foundation.whiskering-operations.md)
+
+```text
+  (H : f ~ g) {I J : g ~ h} → I ~ J → H ∙h I ~ H ∙h K.
+```
+
+Similarly, we introduce
+{{#concept 'right whiskering" Disambiguation="homotopies with respect to concatenation' Agda=right-whisker-concat-htpy}}
```
Comment (fredrik-bakke) [inline src/foundation/whiskering-homotopies-concatenation.lagda.md:35]:
```suggestion
{{#concept r"ight whiskering" Disambiguation="homotopies with respect to concatenation" Agda=right-whisker-concat-htpy}}
```

File: src/foundation/whiskering-identifications-concatenation.lagda.md [hunk 80]
```diff
@@ -0,0 +1,366 @@
...
+1. The square commutes by naturality of the homotopy
+   `α ↦ left-whisker-concat α β`.
+2. The transposed square commutes by the naturality of the homotopy
+   `β ↦ right-whisker-concat α β`.
+
+These two ways in which the square commutes are inverse to each other.
+
+**Note.** The following statements could have been formalized using
+[commuting squares of identifications](foundation.commuting-squares-of-identifications.md).
+However, in order to avoid cyclic module dependencies in the library we avoid
```
Comment (fredrik-bakke) [inline src/foundation/whiskering-identifications-concatenation.lagda.md:219]: 😓

File: src/orthogonal-factorization-systems/pullback-hom.lagda.md (hunk 63 above)
Comment (fredrik-bakke) [reply src/orthogonal-factorization-systems/pullback-hom.lagda.md]: nice

File: src/foundation/function-extensionality.lagda.md (hunk 61 above)
Comment (EgbertRijke) [reply src/foundation/function-extensionality.lagda.md:244]: I tried and didn't get it to work. Perhaps I don't quite understand what you have in mind.

File: src/foundation/whiskering-identifications-concatenation.lagda.md (hunk 80 above)
Comment (EgbertRijke) [reply src/foundation/whiskering-identifications-concatenation.lagda.md:219]: :)

File: src/foundation-core/function-extensionality.lagda.md
Comment (fredrik-bakke) [reply src/foundation-core/function-extensionality.lagda.md:1]: You didn't delete this file yet?

File: src/foundation/function-extensionality.lagda.md [hunk 81]
```diff
@@ -2,200 +2,276 @@
...
 
-Consider a map `f : A → B` and two dependent functions `g h : (x : B) → C x`.
-Then the square
+```text
+              htpy-eq
+    (f ＝ g) ----------> (f ~ g)
+           \            /
+  ap (ev a) \          / ev a
+             ∨        ∨
+            (f a ＝ g a)
```
Comment (fredrik-bakke) [inline src/foundation/function-extensionality.lagda.md:51]: This diagram doesn't type check

Comment (fredrik-bakke) [reply src/foundation/function-extensionality.lagda.md:51]: oh, wait, it does...

**Comment by EgbertRijke** [comment]
I have addressed all the comments now. I defer all the future comments to future pull requests

**Comment by EgbertRijke** [comment]
Also I am happy to share this PR with @fredrik-bakke, for his heroic efforts of reviewing this monster. Thank you!

**Comment by fredrik-bakke** [comment]
Hooray! 🎉
